US05658935
c) Synthesis of [4-(4-pyridyl)-3,3-bisethoxycarbonylbutyryl]glycine methyl ester
9.27 g of 4-(4-pyridyl)-3,3-bisethoxycarbonylbutyric acid are dissolved in 600 ml of dimethylformamide. 3.69 g of glycine methyl ester hydrochloride, 8.78 g of TOTU and 11.5 ml of N-ethylmorpholine are then added successively. The mixture is stirred for 24 h and the solvent is then stripped off in vacuo. The oily residue is chromatographed on silica gel using ethyl acetate. The fractions containing the product are combined and concentrated.

reactant | 4-(4-pyridyl)-3,3-bisethoxycarbonylbutyric acid | 9.27 g | N1=CC=C(C=C1)CC(CC(=O)O)(C(=O)OCC)C(=O)OCC | C15H19NO6
reactant | glycine methyl ester hydrochloride | 3.69 g | Cl.COC(CN)=O
reactant | TOTU | 8.78 g | [B-](F)(F)(F)F.CCOC(=O)C(=NOC(=[N+](C)C)N(C)C)C#N
reactant | N-ethylmorpholine | 11.5 ml | C(C)N1CCOCC1 | C6H13NO
solvent | dimethylformamide | 600 ml | CN(C=O)C | C3H7NO
product | [4-(4-pyridyl)-3,3-bisethoxycarbonylbutyryl]glycine methyl ester | COC(CNC(CC(CC1=CC=NC=C1)(C(=O)OCC)C(=O)OCC)=O)=O | C18H24N2O7
